US05686482
A 1.00 g portion of 4-chloro-2-methoxy-5-nitrobenzoic acid and 0.52 g of sodium hydroxide were dissolved in 20 ml of 40% methylamine methanol solution, followed by stirring at room temperature for 12 hours. After completion of the reaction, the reaction solution was poured on crushed ice and adjusted to pH 4 with 6N hydrochloric acid aqueous solution. The thus precipitated product of interest was collected by filtration, washed with water and dried under a reduced pressure and then the resulting crude product was purified by silica gel column chromatography (chloroform:methanol=20:1) to give 0.30 g of 2-methoxy-4-methylamino-5-nitrobenzoic acid.

reactant | 4-chloro-2-methoxy-5-nitrobenzoic acid | ClC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])OC | C8H6ClNO5
reactant | sodium hydroxide | 0.52 g | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | methylamine methanol | 20 ml | CO.CN
product | 2-methoxy-4-methylamino-5-nitrobenzoic acid | 0.30 g | COC1=C(C(=O)O)C=C(C(=C1)NC)[N+](=O)[O-] | C9H10N2O5
